US07615642B2
5-(Azetidin-1-ylsulfonyl)-2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole
Following the same procedure in Example 1, Step A, using 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (76 mg, 0.20 mmol), azetidine (34 uL, 26 mg, 0.50 mmol) and DMAP (82 mg, 0.67 mmol) in MeCN (5 mL). The crude product was purified by MPLC using Hex/EtOAc (1:2) on silica gel to give 37 mg (46% yield) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.52-1.65 (m, 4 H), 1.68 (s, 9 H), 1.99-2.13 (m, 2 H), 2.32-2.47 (m, 1 H), 3.32-3.43 (m, 2 H), 3.74-3.84 (m, 4 H), 3.90-4.01 (m, 2 H), 4.54 (d, J=7.42 Hz, 2 H), 7.92 (dd, J=8.79, 1.56 Hz, 1 H), 8.09 (d, J=8.79 Hz, 1 H), 8.15 (d, J=1.17 Hz, 1 H); MS (ESI) (M+H)+=392.0; Anal. Calcd for C20H29N3O3S+1.20 TFA+0.40 EtOAc+0.1H2O (556.60): C, 50.93; H, 5.94; N, 7.55. Found: C, 50.98; H, 5.68; N, 7.50.

reactant | 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 0.20 mmol, 76 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
reactant | azetidine | 0.50 mmol, 34 uL, 26 mg | N1CCC1 | C3H7N
catalyst | DMAP | 0.67 mmol, 82 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 5-(Azetidin-1-ylsulfonyl)-2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole | N1(CCC1)S(=O)(=O)C1=CC2=C(N(C(=N2)C(C)(C)C)CC2CCOCC2)C=C1 | C20H29N3O3S
